US07781613B2
6-Chloro-N-dimethylaminomethylene-3-[(N-(3,3,5-trimethylcyclohexyl)-N-methylsulfonylamino)methyl]benzenesulfonamide
This compound is obtained as an oil by reacting 6-chloro-N-dimethylaminomethylene-3-[(3,3,5-trimethylcyclohexylamino)methyl]benzenesulfonamide with methanesulfonyl chloride in methylene chloride in the presence of pyridine as auxiliary base and by purification by column chromatography (silica gel, methylene chloride:methanol=95:5).

reactant | 6-chloro-N-dimethylaminomethylene-3-[(3,3,5-trimethylcyclohexylamino)methyl]benzenesulfonamide | ClC1=CC=C(C=C1S(=O)(=O)N=CN(C)C)CNC1CC(CC(C1)C)(C)C | C19H30ClN3O2S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-dimethylaminomethylene-3-[(N-(3,3,5-trimethylcyclohexyl)-N-methylsulfonylamino)methyl]benzenesulfonamide | ClC1=CC=C(C=C1S(=O)(=O)N=CN(C)C)CN(S(=O)(=O)C)C1CC(CC(C1)C)(C)C | C20H32ClN3O4S2
